US05683995
(v). 17β-(4-fluorobenzoyl)-androsta-3,5-diene-3-carboxylic acid
Sodium chlorite is added to a mixture of 17β-(4-fluorobenzoyl)-androsta-3,5-diene-3-carboxaldehyde, sodium phosphate, monobasic monohydrate in 2-methyl-2-butene in THF, H2O, and t-butanol at RT. After 6 h acetic acid was added, then the aqueous layer is extracted with EtOAc, the combined organic extracts are dried (MgSO4), filtered, concentrated, and flash chromatographed to yield the title compound.

reactant | Sodium chlorite | Cl(=O)[O-].[Na+]
reactant | 17β-(4-fluorobenzoyl)-androsta-3,5-diene-3-carboxaldehyde | FC1=CC=C(C(=O)[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC=C4C=C(CC[C@]4(C)[C@H]2CC3)C=O)C=C1 | C27H31FO2
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | H2O | O | H2O
solvent | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | THF | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 17β-(4-fluorobenzoyl)-androsta-3,5-diene-3-carboxylic acid | FC1=CC=C(C(=O)[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CC=C4C=C(CC[C@]4(C)[C@H]2CC3)C(=O)O)C=C1 | C27H31FO3
